US04383945
To a suspension of (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one (735 mg) in methylene chloride (30 ml) were added 2,2-dimethoxypropane (0.513 ml) and boron trifluoride etherate (0.026 ml) at 0° C. The mixture was stirred for 10 minutes at 0° C. and for 5 hours at ambient temperature. The reaction mixture was poured into a mixture of methylene chloride (30 ml) and aqueous sodium bicarbonate and sodium chloride (1:1). The organic layer was separated and the aqueous layer was extracted with methylene chloride (20 ml). The combined organic layers were washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (16 g) eluting with a mixture of methylene chloride and acetone (10:1-5:1) to give (6R,7R)-7-benzyloxycarbonylamino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one (753 mg) as an oil.

reactant | (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one | 735 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CCO)=O | C13H16N2O4
reactant | 2,2-dimethoxypropane | 0.513 ml | COC(C)(C)OC | C5H12O2
reactant | boron trifluoride etherate | 0.026 ml | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (6R,7R)-7-benzyloxycarbonylamino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 753 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@H]2CCOC(N2C1=O)(C)C | C16H20N2O4
